US09023844B2
To a solution of 5 g (44.6 mmol) 2,2-difluoropropane-1,3-diol (prepared as described in J. Med. Chem. 1994, 37, 1857-1864) in DCM (50 mL) was added triethylamine (18.6 mL, 133.83 mmol) and methane sulphonyl chloride (6.9 mL, 89.22 mmol) at 0° C. and stirred for 1 h at 0° C. Thereafter the reaction mixture was quenched with water and extracted with DCM. The organic layer was dried over anhydrous sodium sulphate and concentrated to afford 2,2-difluoropropane-1,3-diyl dimethanesulfonate (9 g, 84%) which was used immediately in the next step.

reactant | 2,2-difluoropropane-1,3-diol | 44.6 mmol, 5 g | FC(CO)(CO)F | C3H6F2O2
reactant | triethylamine | 133.83 mmol, 18.6 mL | C(C)N(CC)CC | C6H15N
reactant | methane sulphonyl chloride | 89.22 mmol, 6.9 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2,2-difluoropropane-1,3-diyl dimethanesulfonate | 9 g, 84% | CS(=O)(=O)OCC(COS(=O)(=O)C)(F)F | C5H10F2O6S2
